US07271170B2
Step 1. Preparation of 2-(2-benzyloxy-ethyl)-3-oxo-butyric Acid Methyl Ester (159)
To a suspension of NaH (2.0 g, 60% in mineral oil) in DME (50 ml) at 0° C. is added dropwise a solution of methyl acetoacetate (5.8 g, 50 mmol) in DME (10 mL). The solution is stirred at room temperature for 30 minutes. Nal (7.5 g) is added in one portion and then benzyl bromoethyl ether (10.7 5 g, 50 mmol). The mixture is stirred at 70–80° C. overnight. After the formed solid is removed, the solvent is removed. The residue is purified by column with 4:1 of hexane to ethyl acetate to a colorless oil (159).

reactant | NaH | 2.0 g | [H-].[Na+]
reactant | methyl acetoacetate | 50 mmol, 5.8 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | Nal | 7.5 g | N[C@@H](CC1=CC=C2C=CC=CC2=C1)C(=O)O | C13H13NO2
reactant | benzyl bromoethyl ether | 50 mmol, 5 g | BrCCOCC1=CC=CC=C1 | C9H11BrO
solvent | DME | 50 ml | COCCOC | C4H10O2
solvent | DME | 10 mL | COCCOC | C4H10O2
product | 2-(2-benzyloxy-ethyl)-3-oxo-butyric Acid Methyl Ester | COC(C(C(C)=O)CCOCC1=CC=CC=C1)=O | C14H18O4
